US07157476B2
tert-Butyl 2-((3-(trifluoromethyl)phenylcarbamoyl)-methylamino)-ethylcarbamate:
Tert-butyl 2-aminoethylcarbamate (0.32 g, 2 mmol) was dissolved in dichloromethane with DEEA (0.6 mL, 3.4 mmol). To this solution, 2-bromo-N-(3-(trifluoromethyl)-phenyl)acetamide was added and the reaction mixture stirred for 6 hours at room temperature. The reaction mixture was concentrated to an oil and purified by column chromatography (eluent: EtOAC) to give the product 0.37 g, 1.02 mmol, 50% yield. 1H NMR (500 MHz, CDCl3) δ 9.39 (s, 1H), 7.82 (s, 1H), 7.78 (d, J=7.8 Hz, 1H), 7.37 (t, J=7.9 Hz, 1H), 7.28 (d, J=7.8 Hz, 1H), 4.68 (s, 1H), 3.36 (s, 2H), 3.22 (dd, J=11.2, 5.5 Hz, 2H), 2.74 (t, J=5.7 Hz, 2H).

reactant | Tert-butyl 2-aminoethylcarbamate | 2 mmol, 0.32 g | NCCNC(OC(C)(C)C)=O | C7H16N2O2
reactant | DEEA | 3.4 mmol, 0.6 mL | CCN(CC)CCO | C6H15NO
reactant | 2-bromo-N-(3-(trifluoromethyl)-phenyl)acetamide | BrCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C9H7BrF3NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl 2-((3-(trifluoromethyl)phenylcarbamoyl)-methylamino)-ethylcarbamate | 1.02 mmol, 0.37 g, 50% yield | FC(C=1C=C(C=CC1)NC(=O)N(CCNC(OC(C)(C)C)=O)C)(F)F | C16H22F3N3O3
